US04778618
Benzoyl Oxyacetic Acid
13 g lithium chloroacetate (0.10 m) and 17.6 g lithium benzoate (0.10 m) were combined in a 250 ml R.b. flask with 50 ml DMF. This was heated on an oil bath to 110°-120° C. with magnetic stirring for 3 hrs. (The solution at first was clear, but after 2-3 hrs. a white precipitate formed).

reactant | lithium chloroacetate | 13 g | ClCC(=O)[O-].[Li+]
reactant | lithium benzoate | 17.6 g | C(C1=CC=CC=C1)(=O)[O-].[Li+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Benzoyl Oxyacetic Acid | C(C1=CC=CC=C1)(=O)OCC(=O)O | C9H8O4
